US05403846
Step A: N-tert-Butoxycarbonyl-6-hydroxy-1,2,3,4-tetrahydroisoquinoline
A solution of 6-hydroxy-1,2,3,4-tetrahydroisoquinoline hydrobromide (32 g, 139 mmole) in 200 mL water at room temperature was treated with THF (500 mL) triethylamine (14 g, 139 mmole, 19 mL) and di-tert-butyldicarbonate (30.3 g, 139 mmole). The reaction was stirred at room temperature overnight. The reaction was concentrated at reduced pressure to one third volume and the residue was partitioned between water (500 mL) and ethyl acetate (500 mL). The aqueous phase was extracted with two additional 200 mL portions of ethyl acetate and the combined organics were dried over magnesium sulfate, filtered, and concentrated at reduced pressure. The residue was chromatographed on silica gel using 25% ethyl acetate/hexane as eluent to give 21.2 g (61%) of product as a waxy solid. Mp: 110-112; FABMS (m/e) 250 (M+H); ;1H NMR CDCl3δ6.94(1 H, d, J=8 Hz), 6.68(1 H, dd, J=2.4, 8 Hz), 6.63 (1 H, d, J=2.4 Hz), 5.5 (1 H, br s), 4.49 (3H, s), 3.61(2H, t, J=6 Hz), 2.76 (2 H, t, J=6 Hz), 1.49 (9 H, s); Anal. Calcd. For C14H19NO3 : C, 67.45; H, 7.68; N, 5.62. Found: C, 67.56; H, 7.78; N, 5.94.

reactant | 6-hydroxy-1,2,3,4-tetrahydroisoquinoline hydrobromide | 139 mmole, 32 g | Br.OC=1C=C2CCNCC2=CC1
reactant | THF | 139 mmole, 500 mL, 14 g | C1CCOC1 | C4H8O
reactant | di-tert-butyldicarbonate | 139 mmole, 30.3 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | water | 200 mL | O | H2O
product | N-tert-Butoxycarbonyl-6-hydroxy-1,2,3,4-tetrahydroisoquinoline | 21.2 g, 61% | C(C)(C)(C)OC(=O)N1CC2=CC=C(C=C2CC1)O | C14H19NO3
